US05068356
N-[3-(3,5-di-t-butyl-4-hydroxyphenyl)propanamido]-2-tetradecylsuccinimide
A mixture of 2-tetradecylsuccinic anhydride (17.2 g, 52.5 mmol), 3-(3,5-di-t-butyl-4-hydroxyphenyl)propanoic acid hydrazide (15.4 g, 52.5 mmol) and 40 ml of toluene was refluxed for about one hour under a nitrogen atmosphere with the azeotropic removal of water. The bulk of the solvent was then allowed to distill off. Residual solvent was removed by placing the heated mixture (140° C.) under vacuum for 15 minutes. The bath used to heat the mixture was cooled to 70° C. and the vacuum was released. The resulting viscous melt was dissolved in 120 ml of acetone and suction filtered to remove mechanical impurities. The filtrate was diluted to 700 ml with acetone. This solution was cooled in an ice/water bath to precipitate the product which was collected by vacuum filtration. The filtrate was then re-cooled in a -20° C. acetone/dry ice bath to obtain additional product which was also collected by filtration. The collected solids were combined, air dried on a sheet of paper and finally high vacuum dried to give 25.3 g of a white solid having a melting range of 70°-77° C.

reactant | 2-tetradecylsuccinic anhydride | 52.5 mmol, 17.2 g | C(CCCCCCCCCCCCC)C1C(=O)OC(C1)=O | C18H32O3
reactant | 3-(3,5-di-t-butyl-4-hydroxyphenyl)propanoic acid hydrazide | 52.5 mmol, 15.4 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(=O)NN | C17H28N2O2
reactant | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | N-[3-(3,5-di-t-butyl-4-hydroxyphenyl)propanamido]-2-tetradecylsuccinimide | 25.3 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(=O)NN1C(C(CC1=O)CCCCCCCCCCCCCC)=O | C35H58N2O4
